US04529732
N-Methyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol
To a 25° C. slurry of 267 mg (7.04 mmole) of lithium aluminum hydride in 12 ml ethyl ether is added dropwise over 30 minutes a solution of 1.50 g (3.11 mmole) of N-ethoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol. The reaction is stirred for 0.5 hour at 25° C., then two hours at reflux. The reaction is quenched by addition of wet magnesium sulfate followed by decantation and washing of the salts with two 30 ml portions of ether. The ether extract is washed with 10 ml saturated sodium chloride, dried over magnesium sulfate and evaporated to give 1.19 g (91%) of the title compound as a solid.

reactant | lithium aluminum hydride | 7.04 mmole, 267 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-ethoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 3.11 mmole, 1.50 g | C(C)OC(=O)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H43NO4
solvent | ethyl ether | 12 ml | C(C)OCC | C4H10O
product | N-Methyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 1.19 g, 91% | CN1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C28H41NO2
